US05817671
A mixture of 4.0 gm (12.6 mMol) 5-amino-3-(1-tert-butoxycarbonylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 2.7 mL (25.2 mMol) allyl chloroformate in 200 mL pyridine was heated at 50° C. for 5 hours. At this point an additional 2 mL of allyl chloroformate were added and heating was continued for another 1.5 hours. The reaction mixture was concentrated under reduced pressure and the resulting residue partitioned between 1N sodium hydroxide and chloroform. The phases were separated and the aqueous phase was extracted well with chloroform. The organic phases were combined, washed with saturated aqueous sodium chloride, dried over sodium sulfate and concentrated under reduced pressure. This residue was dissolved in 2M ammonia in methanol for two hours. The reaction mixture was concentrated under reduced pressure and the residue subjected to flash silica gel chromatography, eluting with dichloromethane containing from 2-5% methanol and 1% ammonium hydroxide. Fractions containing product were combined and concentrated under reduced pressure. The residue was crystallized from aqueous ethanol to provide 2.9 gm (60%) 5-(N-[prop-1-en-3-yloxycarbonyl]amino)-3-(1-tert-butoxycarbonylpiperidin-4-yl)pyrrolo[3,2-b]pyridine.

reactant | 5-amino-3-(1-tert-butoxycarbonylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 12.6 mMol, 4.0 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C(=O)OC(C)(C)C | C17H24N4O2
reactant | allyl chloroformate | 25.2 mMol, 2.7 mL | ClC(=O)OCC=C | C4H5ClO2
reactant | allyl chloroformate | 2 mL | ClC(=O)OCC=C | C4H5ClO2
solvent | pyridine | 200 mL | N1=CC=CC=C1 | C5H5N
product | 5-(N-[prop-1-en-3-yloxycarbonyl]amino)-3-(1-tert-butoxycarbonylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 2.9 gm, 60% | C=CCOC(=O)NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C(=O)OC(C)(C)C | C21H28N4O4
